Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L facial ulcer
 
Major Surgical or Invasive Procedure:
L forehead biopsy ___

 
History of Present Illness:
. ___ is a ___ female with no known PMH (in
setting of infrequent contact with healthcare system) who
presents as transfer from ___ for a fall, found to have a
necrotizing L facial ulcer. 

The patient reports that she has a "phobia" of doctors and ___
not interacted with the medical system in many years. She states
that a few months ago she noted a "pimple" on her left temple
that gradually increased in size. She then suffered a fall onto
her L temple about a month ago, during which she lacerated the
area of the lesion. The wound failed to heal despite treatment
with Neosporin and hydrogen peroxide and gradually became black,
scaled, and infested with insects. Her son, who per ___ report
states that the lesion has been present for ___ year, and her
husband urged her to seek medical care, but she refused. This
past ___ she slipped off her bed and landed on the ground.
She denies head strike or LOC, but her family was unable to lift
her and EMS was called. She was taken to ___,
where ___ showed extensive soft tissue abrasion and laceration
of the L cheek with no intracranial hemorrhage. Non-con CT face
showed also showed extensive soft tissue abrasion and laceration
of the L check extending to the L temporal area without a facial
bone fracture. She was given cefazolin and TDaP and transferred
to ___ for further w/u of her temporal ulcer. On
arrival, she endorsed mild tenderness over the L temporal ulcer
but denied F/C, CP, cough, SOB, vision changes, abdominal pain,
N/V, diarrhea/constipation, melena/hematochezia,
dysuria/hematuria, headaches. She reports significant sun
exposure when younger and a family history of skin cancer. No
recent travel or animal exposure.

In the ___:
VS normal
Exam: notable for L-sided necrotic temporal wound infested with
maggots
Imaging: none new
Labs: WBC 7.9, BMP ___
Consults: Plastic surgery (recommended IV antibiotics, ENT, derm
consults); Dermatology (topical flagyl, IV antibiotics, biopsy
offered in ___ but patient declined); ENT (staging CT
head/neck/chest, biopsy); Psychiatry (phobia disorder but no
indication for ___
Tx: cefazolin 1g, Vancomycin 1g, Zosyn 4.5g 

On arrival to the floor, Ms. ___ is without complaint. She
states that, in retrospect, she should have sought care earlier,
and she is glad that this lesion has come to medical attention.
She is agreeable to proceeding with a biopsy tomorrow if 
offered.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
None known (little contact with medical establishment)
 
Social History:
___
Family History:
Brother with pre-diabetes.
Aunt with colon cancer.
Multiple family members with skin cancers.

 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.2PO BP 149/81 HR 105 RR 18 96 RA 
GENERAL: NAD, lying comfortably in bed
EYES: PERRL, mild chemosis L eye
ENT: OP clear, no LAD, no stridor, trachea midline
CV: RRR, nl S1, S2, +S4 gallop, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: obese, + BS, soft, NT, ND, no rebound/guarding, no HSM
GU: No suprapubic fullness or tenderness to palpation
SKIN: Large, ulcerated, necrotic-appearing lesion L temple, ~7cm
in diameter, from hairline to lateral canthus, s/p irrigation.
Granulation tissue visible without obvious purulent discharge.
Mildly TTP on edges of lesion. Additional round, ulcerated 1cm
crusted papule on L forehead at hairline. Mild are of erythema L
neck, outlined in marker, without warmth, induration, or TTP.
NEURO: AOx3, CN II-XII intact, ___ strength in all extremities,
sensation grossly intact throughout, gait testing deferred
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VITALS: 97.4PO 155 / 86 109 18 98 ra 
GENERAL: NAD, lying comfortably in bed
EYES: PERRL, mild chemosis L eye
ENT: OP clear, no LAD, no stridor, trachea midline
CV: RRR, nl S1, S2, +S4 gallop, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: obese, + BS, soft, NT, ND, no rebound/guarding, no HSM
GU: No suprapubic fullness or tenderness to palpation
SKIN: Large, ulcerated, necrotic-appearing lesion L temple, ~7cm
in diameter, from hairline to lateral canthus, s/p irrigation.
Granulation tissue visible without obvious purulent discharge.
Mildly TTP on edges of lesion. Additional round, ulcerated 1cm
crusted papule on L forehead at hairline. Mild are of erythema L
neck, outlined in marker, without warmth, induration, or TTP.
NEURO: AOx3, CN II-XII intact, ___ strength in all extremities,
sensation grossly intact throughout, gait testing deferred
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 07:05AM BLOOD WBC-7.9 RBC-4.33 Hgb-13.4 Hct-40.3 MCV-93 
MCH-30.9 MCHC-33.3 RDW-12.8 RDWSD-43.8 Plt ___
___ 06:25AM BLOOD ___
___ 07:05AM BLOOD Glucose-110* UreaN-10 Creat-0.6 Na-139 
K-3.7 Cl-100 HCO3-22 AnGap-17*
___ 07:05AM BLOOD Calcium-8.6 Phos-4.0 Mg-2.2

DISCHARGE LABS:
___ 06:30AM BLOOD WBC-5.7 RBC-4.23 Hgb-13.2 Hct-39.8 MCV-94 
MCH-31.2 MCHC-33.2 RDW-12.9 RDWSD-44.1 Plt ___
___ 06:30AM BLOOD Glucose-100 UreaN-11 Creat-0.7 Na-143 
K-4.0 Cl-104 HCO3-28 AnGap-11
___ 06:30AM BLOOD Calcium-8.3* Mg-2.4
___ 06:25AM BLOOD %HbA1c-5.2 eAG-103

IMAGING:

CT neck with contrast ___:
1. Extensive area of increased density and thickening of the 
skin overlying 
the left malar eminence and infratemporal fossa with induration 
of the 
underlying tissues.  There is no evidence of osseous 
involvement.  There is no 
evidence of an abnormal fluid collection or lymphadenopathy, 
therefore 
favoring neoplasm versus an infectious etiology. 

CT head with contrast ___:
1. Large left malar eminence and infratemporal fossa skin lesion 
with 
underlying tissue induration.  Normal appearance of the bones 
and no evidence 
of abnormal fluid collections.  Although either is possible, at 
the appearance 
somewhat favors neoplasm over infection. 

 
Brief Hospital Course:
Ms. ___ is a ___ female with no known PMH (in setting 
of infrequent contact with healthcare system) who presents as 
transfer from ___ for a fall, found to have a necrotizing L 
facial ulcer.

# L temporal necrotizing ulcer: Biopsied with dermatology, 
pathology showing squamous cell ca.  Spoke with Dermatology and 
ENT and pt was referred to ___ for follow-up as no head and 
neck specialist here.  Her F/u appointment was made for ___.  
She was treated with 7 day course of abx (IV unasyn->Augmetin) 
and topical flagyl for possible superinfection of wound.  ___ 
was suggested for wound-care post-discharge but pt declined.

# Self-neglect: Given chronicity of lesion above ___ year) and 
reportedly was filled with maggot on presentation, psychiatry 
was consulted in the ___ to evaluate capacity. They believe her 
to have a phobia interfering with her ability to seek care, but 
she does not meet ___ criteria. The patient seemed 
proactive in seeking further care.  Referral was made to Elder 
Services who will follow-up with patient post-discharge.

Greater than 30 minutes spent on discharge counseling and 
coordination of care.
 
Medications on Admission:
none
 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 4 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
twice a day Disp #*8 Tablet Refills:*0 
2.  MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
RX *metronidazole 1 % 1 thin layer twice a day Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Squamous cell carcinoma of face

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in after having a fall and were found to have a lesion 
on your forehead.  We did a biopsy of this lesion and found that 
it is a type of skin cancer called squamous cell cancer.  You 
need to have this lesion removed and  likely reconstruction with 
plastic surgery.  You will have this done at Mass Eye and Ear 
(see below for appointment).

Please seek medical attention (likely at Mass Eye and Ear) if 
you have worsening pain, drainage from the wound, or fevers, 
chills. 

Please follow-up with your PCP as scheduled

___ has been a pleasure taking care of you at ___ 
___.

Wound care instructions:
Cover with a thin layer of vaseline and cover with dry gauze 
every day.
 
Followup Instructions:
___